US07064123B1
A solution of thioacetic acid S-[3-benzylsulfanyl-2-(cyanomethyl-carbamoyl)propyl] ester (0.105 g) in dimethylformamide (1 mL) and water (0.8 mL) was cooled on ice and treated with 1 N aqueous potassium hydroxide (0.65 mL). 3-Cyanobenzylbromide (0.129 g) in dimethylformamide (0.8 mL) was added. The reaction mixture was allowed to warm to room temperature while stirring overnight. The reaction mixture was then poured into ice water and extracted with ethyl acetate (50 mL) and washed with water and saturated aqueous sodium chloride. The solution was dried over magnesium sulfate and evaporated to give 2-benzylsulfanylmethyl-3-(3-cyano-benzylsulfanyl)-N-cyanomethyl-propionamide (0.135 g).

reactant | thioacetic acid S-[3-benzylsulfanyl-2-(cyanomethyl-carbamoyl)propyl] ester | 0.105 g | C(C1=CC=CC=C1)SCC(CSC(C)=O)C(NCC#N)=O | C15H18N2O2S2
reactant | potassium hydroxide | 1 N, 0.65 mL | [OH-].[K+]
reactant | 3-Cyanobenzylbromide | 0.129 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 0.8 mL | O | H2O
solvent | dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | 2-benzylsulfanylmethyl-3-(3-cyano-benzylsulfanyl)-N-cyanomethyl-propionamide | 0.135 g | C(C1=CC=CC=C1)SCC(C(=O)NCC#N)CSCC1=CC(=CC=C1)C#N | C21H21N3OS2
